US09233946B2
5-{[(4′-Chlorobiphenyl-3-yl)sulfonyl]amino}-2-hydroxybenzoic acid
The product was prepared according to General Procedure 1, described in Example 1, with [[3-(4-chlorophenyl)phenyl]sulfonyl chloride (16 mg, 0.055 mmol) and 5-aminosalicylic acid (7.7 mg, 0.050 mmol) using a modified reaction temperature of 60° C. The title compound was obtained in 33% yield (6.7 mg). MS (ESI+) calcd mass for C19H14ClNO5S 403.028121, found 403.028561.

reactant | [3-(4-chlorophenyl)phenyl]sulfonyl chloride | 0.055 mmol, 16 mg | ClC1=CC=C(C=C1)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H8Cl2O2S
reactant | 5-aminosalicylic acid | 0.050 mmol, 7.7 mg | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
product | 5-{[(4′-Chlorobiphenyl-3-yl)sulfonyl]amino}-2-hydroxybenzoic acid | 33% yield | ClC1=CC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)NC=1C=CC(=C(C(=O)O)C1)O | C19H14ClNO5S
